US07795262B2
XXXIX. 5-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-2-Pyridazin-3-Yl-4,5,6,7-Tetrahydro[1,3]Thiazolo[5,4-C]Pyridine (Scheme 19)
A mixture of 2-bromo-5-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine (300 mg, 0.75 mmol), 3-(tributylstannyl)pyridazine (369 mg, 1 mmol) and Pd(PPh3)4 (92 mg, 0.08 mmol) in toluene (15 mL) is degassed by Ar and heated at 110° C. in a sealed tube overnight. The mixture is cooled and saturated KF solution (10 mL) is added. The mixture is stirred at rt for 30 min then the layers are separated. The aqueous layer is extracted with EtOAc (15 ml) and the combined extracts are dried and evaporated. The residue is purified by PTLC to give the title compound as white solid. MS (M+1): 399.2; 1H NMR (δ, CDCl3): 9.63-9.64 (m, 1H), 9.23 (dd, 1H), 7.84 (dd, 1H), 3.90 (s, 2H), 3.62 (td, 4H), 3.45 (s, 2H), 3.00 (s, 4H), 2.64-2.74 (m, 1H), 2.29 (t, 4H), 1.64-2.06 (m, 6H).

reactant | 2-bromo-5-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine | 0.75 mmol, 300 mg | BrC=1SC=2CN(CCC2N1)CC(=O)N1CCN(CC1)C1CCC1 | C16H23BrN4OS
reactant | 3-(tributylstannyl)pyridazine | 1 mmol, 369 mg | C(CCC)[Sn](C=1N=NC=CC1)(CCCC)CCCC
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.08 mmol, 92 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-2-Pyridazin-3-Yl-4,5,6,7-Tetrahydro[1,3]Thiazolo[5,4-C]Pyridine | C1(CCC1)N1CCN(CC1)C(CN1CC2=C(CC1)N=C(S2)C=2N=NC=CC2)=O | C20H26N6OS
